US04918074
To a solution of 6-ethoxycarbonyl-7-formyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine hydrochloride in a mixture of 20 ml of ethanol and 20 ml of dimethylformamide are added 0.88 g of hydroxylamine hydrochloride and 1.22 g of sodium carbonate and the mixture is stirred at 50° C. for 1.5 hours. The solvent is distilled off under reduced pressure and water is added to the residue, then precipitated crystals are collected by filtration. The crystals are recrystallized from a mixture of chloroform and methanol to give 2.0 g of 6-ethoxycarbonyl-7-hydroxyiminomethyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine, melting at 229°-230° C. with decomposition.

reactant | 6-ethoxycarbonyl-7-formyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine hydrochloride | Cl.C(C)OC(=O)C1=C(NC=2N(C1C1=CC(=CC=C1)[N+](=O)[O-])C=CN2)C=O
reactant | hydroxylamine hydrochloride | 0.88 g | Cl.NO
reactant | sodium carbonate | 1.22 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-ethoxycarbonyl-7-hydroxyiminomethyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine | 2.0 g | C(C)OC(=O)C1=C(NC=2N(C1C1=CC(=CC=C1)[N+](=O)[O-])C=CN2)C=NO | C16H15N5O5
